* BVM Cell Subcircuit v6 — Based on description.md (8-node topology)
* Reference: Karamuftuoglu et al., Supercond. Sci. Technol. 38 015020 (2025)
*
*
* IMPORTANT: Test file must .include the desired JJ model file BEFORE this subcircuit.
*   e.g.: .include ../../circuits/models/mitll_models_our.cir
* N1: WL+BL entry → JM1+LM1→GND, LM2→JM2→N2
* N2: JM2→LM3→N5, LS1→JS1→N3
* N3: JS1←, SE entry, (wire)→N4, RS→N6
* N4: (wire)←N3, LS3→N7
* N5: LM3←N2, LPM→GND, LS2→JS2→N6
* N6: JS2←, RS←N3, (wire)→N7
* N7: (wire)←N6, LS3←N4, LPSL→RSL→N8
* N8: RSL←, LSL→DataOut, SL port
*
* S-Loop: N1→JM1→LM1→GND←LPM←N5←LM3←N2←JM2←LM2←N1
* R-Loop: N3→JS1→LS1→N2→LM3→N5→LS2→JS2→N6→RS→N3 (via RS)
*          N3→(wire)→N4→LS3→N7→(wire)→N6→RS→N3 (via LS3)


.subckt BVM WL BL SE SL

* === WL+BL merge at Node '2' ===
R_BL    BL      1       20.0
L_PBL   1       2       0.5P
R_WL    WL      13      20.0
L_PWL   13      2       0.5P

* === S-Loop ===

* Main branch: N1 → JM1 → LM1 → GND
B_JM1   2       7       jjmit area=1.2
R_JM1   2       7       8
L_M1    7       0       12.5P

* Stabilizer branch: N1 → LM2 → JM2 → N2
L_M2    2       4       24.5P
B_JM2   3       4       jjmit area=1.4
* R_JM2   3       4       8

* N2 → LM3 → N5 (shared path with R-Loop)
L_M3    4       8       8.5P

* N5 → LPM → GND (loop closure)
L_PM    8       0       0.5P

* === R-Loop upper branch: N2 → LS1 → JS1 → N3 ===
L_S1    4       5       0.5P
B_JS1   5       6       jjmit area=0.74
* R_JS1   5       6       30


* === SE into N3 ===
R_SE    SE      14      20.0
L_PSE   14      6       0.5P

* === R-Loop bridge network ===
* N3 → N4 (direct wire — 0V voltage source for current measurement)
* R_N3N4  N3      N4      1E-6
* N3 → RS → N6
R_S     6       10      3.0
* N4 → LS3 → N7
L_S3    6       10      0.5P

* === R-Loop lower branch: N5 → LS2 → JS2 → N6 ===
L_S2    8       9       0.5P
B_JS2   9       10      jjmit area=0.74
* R_JS2   9       10      30

* === N6 → N7 (direct wire) ===
* R_N6N7  N6      N7      1E-6

* === Output chain: N7 → LPSL → RSL → N8 → LSL → DataOut ===
L_PSL   10      11      0.5P
R_SL    11      12      12
L_SL    12      SL      0.4P

.ends BVM
